US04374248
3-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethylamino}-4-(2-propynyl)amino-1,2,5-thiadiazole 1,1-dioxide
A solution of 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine (from the dihydrochloride, 3.42 g; 11.2 mmoles) in 25 ml of methanol was added to a well stirred cold (8°) suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide (2.0 g; 11.2 mmoles) in 200 ml of methanol. After 15 minutes at 8°-10°, the solution was cooled to 1° in an ice-bath and a solution of 6.0 ml 2-propynylamine in 15 ml of methanol was added. The ice-bath was removed and stirring was continued for 15 minutes. The reaction mixture was evaporated under reduced pressure and the residue placed on 50 g of silica gel and chromatographed using a gradient elution of methylene chloride-methanol. Two of the fractions yielded crystalline product (1.74 g) from methanol. The product was dissolved in hot methanol, filtered through Celite, cooled and filtered to yield the title compound, mp 176°-178°.

reactant | 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | 11.2 mmoles, 2.0 g | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 2-propynylamine | 6.0 ml | C(C#C)N | C3H5N
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 3-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethylamino}-4-(2-propynyl)amino-1,2,5-thiadiazole 1,1-dioxide | 1.74 g | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NS(N=C1NCC#C)(=O)=O | C12H16N8O2S3
